* 5/16/08
*Pinout (same as IC): IN- VOCM V+ OUT+ OUT- V-  EN/  IN+ -OUTF +OUTF
.SUBCKT LTC6403-1       1    2   3   4    5   6    7    8     9    10 
CG1P 26 0 0.19E-8
CG3P 28 0 3.4E-9
CG5M 25 0 20E-12
CG5P 24 0 20E-12
CIN2 3 8 1p
CIN3 1 3 1p
CIN4 6 8 1p
CIN5 1 6 1p
COCM1 61 0 7p
COCM3 6 2 4E-12
CPSRR1 53 3 .04E-12
CPSRR2 54 6 .04E-12
DIN1 8 3 DIN
DIN2 1 3 DIN
DIN3 6 8 DIN
DIN4 6 1 DIN
DIN5 51 8 DIN
DIN6 1 51 DIN
DIN7 8 62 DIN
DIN8 62 1 DIN
DVL1P 27 26 DVLIM
DVL2P 27 0 DVLIM
DVNF 42 0 DVNOI
DVNFX 43 0 DVNOIX
ESHD1 88 0 VALUE={0.5+0.5*TANH(5*(1.2-V(3,7)))}
GG1P 0 26 VALUE={0.4*TANH(V(23))}
GG3P 0 28 26 0 6.4832
GG5M 0 25 0 28 6.4832
GG5P 0 24 28 0 6.4832
GGAINP 0 23 22 1 14
GINOI1 1 0 0 44 1m
GINOI2 8 0 0 45 1m
GINX 0 22 VALUE={V(8)+3.1E-3*(0.5*(V(8)+V(1))-V(6))-V(52)+V(42,43)+V(41)-0.0m}
GOCM1 0 61 VALUE={V(88)*((V(2)-(V(4)+V(5))/2)+1.5m)+10*V(41)}
GOCM2 0 24 61 0 6.283
GOCM3 0 25 61 0 6.283
GOUT1 31 4 VALUE={MIN(0.065,V(88)*0.143*V(31,4))}
GOUT2 32 5 VALUE={MIN(0.065,V(88)*0.143*V(32,5))}
GPSRR 0 52 3 6 40E-7
GPWR 3 6 VALUE={V(88)*(V(3,6)/620+5E-3)+0.9E-3}
IBIASDEF1 0 8 9u
IBIASDEF2 0 1 9u
IDUM1 41 0 0
IDUM2 45 44 0
IVNF 0 42 1
IVNFX 0 43 1
MOUT1 3 24 31 31 NOUT
MOUT1M 3 25 32 32 NOUT
MOUT2 6 24 31 31 POUT
MOUT2M 6 25 32 32 POUT
RAP 23 0 1
RG1P 26 0 400k
RG3P 28 0 0.159155
RG5M 25 0 0.159155
RG5P 24 0 0.159155
RINOI1 44 0 380
RINOI2 45 0 380
RINX 22 0 1
ROCM1 61 0 100k
RPSRR1 52 0 10
RPSRR2 52 53 30
RPSRR3 52 54 30
RSHDN2 7 3 100k
RVNOI 41 0 10
RVOCM3 3 2 47k
RVOCM4 2 6 47k
RFILTP 4 10 100
RFILTN 5 9 100
CFILT 9 10 12pF
CFILTP 9 6 12pF
CFILTM 10 6 12pF
.MODEL NOUT NMOS(KP=1 VTO=1M)
.MODEL POUT PMOS(KP=1 VTO=-1M)
.MODEL DIN D(IS=1E-12 KF=0 RS=0)
.MODEL DVLIM D(BV=5 IS=1E-18 KF=0 RS=0 XTI=0)
.MODEL DVNOIX D(KF=0 RS=0)
.MODEL DVNOI D(RS=0 KF= 3E-12)
.ENDS LTC6403-1

